US07074809B2
2-[3-(3-cyano-phenyl)-[1,2,4]oxadiazol-5-yl]-3-methyl-piperidine-1-carboxylic acid tert-butyl ester (150 mg, 14.7%) was obtained as described in Example 25 from 3-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester (672 mg, 2.765 mmol) with triethylamine (1.1 g, 11 mmol) in THF (8 mL) with isobutyl chloroformate (377.6 mg, 2.765 mmol). After 30 minutes, 3-chloro-N-hydroxy-benzamidine (445 mg, 2.765 mmol) in DMF (5 mL) was added and then the reaction mixture was heated to 135° C. for 3 h. The product was purified by column chromatography with 5% ethyl acetate in hexanes. 3-[5-(3-methyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile (85 mg, 77.8%) was obtained as described in Example 25 from 2-[3-(3-Cyano-phenyl)-[1,2,4]oxadiazol-5-yl]-3-methyl-piperidine-1-carboxylic acid tert-butyl ester (150 mg, 0.407 mmol) with trifluoroacetic acid (0.5 mL) and dichloromethane (4 mL) at room temperature for 2 h.

reactant | 3-methyl-piperidine-1,2-dicarboxylic acid 1-tert-butyl ester | 2.765 mmol, 672 mg | C(C)(C)(C)OC(=O)N1C(C(CCC1)C)C(=O)O | C12H21NO4
reactant | triethylamine | 11 mmol, 1.1 g | C(C)N(CC)CC | C6H15N
reactant | isobutyl chloroformate | 2.765 mmol, 377.6 mg | ClC(=O)OCC(C)C | C5H9ClO2
reactant | 3-chloro-N-hydroxy-benzamidine | 2.765 mmol, 445 mg | ClC=1C=C(C(=N)NO)C=CC1 | C7H7ClN2O
solvent | THF | 8 mL | C1CCOC1 | C4H8O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-[5-(3-methyl-piperidin-2-yl)-[1,2,4]oxadiazol-3-yl]-benzonitrile | 85 mg, 77.8% | CC1C(NCCC1)C1=NC(=NO1)C=1C=C(C#N)C=CC1 | C15H16N4O
